### PR TITLE
minor additions to ereal.v

### PR DESCRIPTION
**Pull request by affeldt-aist**
minor additions to ereal.v used to prove measurability lemmas in PR #404

### CODE REVIEW

File: theories/ereal.v [hunk 1]
```diff
@@ -403,10 +403,12 @@ Notation "`| x |" := (abse (x%dE : dual_extended _)) : ereal_dual_scope.
...
 Arguments abse {R}.
 
-Notation "f \+ g" := (fun x => f x + g x)%dE : ereal_dual_scope.
 Notation "f \+ g" := (fun x => f x + g x)%E : ereal_scope.
-Notation "f \* g" := (fun x => f x * g x)%dE : ereal_dual_scope.
+Notation "f \+ g" := (fun x => f x + g x)%dE : ereal_dual_scope.
 Notation "f \* g" := (fun x => f x * g x)%E : ereal_scope.
+Notation "f \* g" := (fun x => f x * g x)%dE : ereal_dual_scope.
+Notation "f \- g" := (fun x => f x - g x)%E : ereal_scope.
+Notation "f \- g" := (fun x => f x - g x)%dE : ereal_dual_scope.
```
Comment (proux01) [inline theories/ereal.v:411]: Bikeshedding: everywhere else in the file, notations are first put in ereal_dual_scope then in ereal_scope, maybe we could keep the same ordering here (although it has no impact considering the two scopes are different).

File: theories/ereal.v [hunk 2]
```diff
@@ -596,6 +590,34 @@ Proof. by move: x => [r| |] //=; rewrite /mule/= ?mulr0// eqxx. Qed.
...
+Lemma mule_defC x y : x *? y = y *? x.
+Proof. by rewrite [in LHS]/mule_def orbC. Qed.
+
+Lemma fin_num_mule_def x y : x \is a fin_num -> y \is a fin_num -> x *? y.
+Proof.
+move: x y => [x| |] [y| |] finx finy//.
+by rewrite /mule_def negb_or 2!negb_and/= 2!orbT.
+Qed.
+
+Lemma mule_defP x y : x != 0 -> y \isn't a fin_num -> x *? y.
```
Comment (proux01) [inline theories/ereal.v:607]: I'm not fond of the name which may suggest this is the main property of `mule_def`.
Maybe `neq0_infty_mule_def`? It also looks like we should also add `x \isn't a fin_num -> y != 0 -> x *? y`.

Comment (CohenCyril) [reply theories/ereal.v:607]: Or `mule_def_neq0_infty`, and indeed `mule_def_infty_neq0` should also be added.

File: theories/ereal.v [hunk 3]
```diff
@@ -596,6 +590,34 @@ Proof. by move: x => [r| |] //=; rewrite /mule/= ?mulr0// eqxx. Qed.
...
 
+Definition mule_def x y :=
+  ~~ (((x == 0) && (`| y | == +oo)) || ((y == 0) && (`| x | == +oo))).
+
+Local Notation "x *? y" := (mule_def x y).
+
+Lemma mule_defC x y : x *? y = y *? x.
+Proof. by rewrite [in LHS]/mule_def orbC. Qed.
+
+Lemma fin_num_mule_def x y : x \is a fin_num -> y \is a fin_num -> x *? y.
```
Comment (CohenCyril) [inline theories/ereal.v:601]: `mule_def_fin`

File: theories/ereal.v (hunk 1 above)
Comment (affeldt-aist) [reply theories/ereal.v:411]: Ok. It only seemed strange to me to start with the longer variant.

Comment (proux01) [reply theories/ereal.v:411]: Makes senses. It would be fine for me to change this everywhere (in a separate commit)

Comment (CohenCyril) [reply theories/ereal.v]: Except sometimes, the precedence *does* matter. Be careful please.

Comment (affeldt-aist) [reply theories/ereal.v]: Even when scopes are different?

Comment (proux01) [reply theories/ereal.v]: The ones above are definitely fine, but we should indeed double check with +oo for instance.

File: theories/ereal.v [hunk 4]
```diff
@@ -596,6 +590,35 @@ Proof. by move: x => [r| |] //=; rewrite /mule/= ?mulr0// eqxx. Qed.
...
+Proof.
+move: x y => [x| |] [y| |] finx finy//.
+by rewrite /mule_def negb_or 2!negb_and/= 2!orbT.
+Qed.
+
+Lemma neq0_infty_mule_def x y : x != 0 -> y \isn't a fin_num -> x *? y.
+Proof. by move: x y => [x| |] [y| |]// x0 _; rewrite /mule_def (negbTE x0). Qed.
+
+Lemma infty_neq0_mule_def x y : x \isn't a fin_num  -> y!= 0 -> x *? y.
+Proof. by move: x y => [x| |] [y| |]// _ y0; rewrite /mule_def (negbTE y0). Qed.
```
Comment (CohenCyril) [inline theories/ereal.v:611]:
```suggestion
Lemma mule_def_neq0_infty x y : x != 0 -> y \isn't a fin_num -> x *? y.
Proof. by move: x y => [x| |] [y| |]// x0 _; rewrite /mule_def (negbTE x0). Qed.

Lemma mule_def_infty_neq0 x y : x \isn't a fin_num  -> y != 0 -> x *? y.
Proof. by move: x y => [x| |] [y| |]// _ y0; rewrite /mule_def (negbTE y0). Qed.
```

**Review by CohenCyril — APPROVED** [review]
